US08648068B2
I.1. (S)-tert-butyl 3-(5-fluoro-2-nitrophenoxy)piperidine-1-carboxylate
LiHMDS 1M solution in THF (6.4 ml) was added into a solution of (S)-1-Boc-3-hydroxypiperidine (1.3 g) in anhydrous THF (20.0 ml). The reaction was stirred at 0° C. for 0.5 h. Then 2,4-difluoro-1-nitro-benzene (703 μl) was added in a single portion. The reaction was allowed to warm to room temperature overnight when TLC indicated the consumption of the starting material. The reaction was quenched by addition of sat NH4Cl (5.0 ml) and diluted with EtOAc (100.0 ml). The organic layer was washed with sat. NH4Cl (50.0 ml) and the aqueous back extracted with EtOAc. The combined organic phases were washed with brine, dried, filtered and concentrated in vacuo. The residue was purified by chromatography to give the intended product.

reactant | LiHMDS | 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (S)-1-Boc-3-hydroxypiperidine | 1.3 g | C(=O)(OC(C)(C)C)N1C[C@H](CCC1)O | C10H19NO3
reactant | 2,4-difluoro-1-nitro-benzene | 703 μl | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | THF | 6.4 ml | C1CCOC1 | C4H8O
solvent | THF | 20.0 ml | C1CCOC1 | C4H8O
product | (S)-tert-butyl 3-(5-fluoro-2-nitrophenoxy)piperidine-1-carboxylate | FC=1C=CC(=C(O[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C1)[N+](=O)[O-] | C16H21FN2O5
